US04911862
10.0 g of 3,3'-difluoro-4,4'-dimethoxybiphenyl was dissolved in 150 ml of dioxane, and 150 ml of 48% hydrobromic acid was added. The mixture was heated under reflux for 50 hours. After the reaction, the reaction mixture was subjected to evaporation under reduced pressure. The residue was fully washed with water to obtain the desired 3,3'-difluoro-4,4'-dihydroxybiphenyl.

reactant | 3,3'-difluoro-4,4'-dimethoxybiphenyl | 10.0 g | FC=1C=C(C=CC1OC)C1=CC(=C(C=C1)OC)F | C14H12F2O2
reactant | hydrobromic acid | 150 ml | Br | BrH
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3,3'-difluoro-4,4'-dihydroxybiphenyl | FC=1C=C(C=CC1O)C1=CC(=C(C=C1)O)F | C12H8F2O2
